US09193720B2
The 1.32 mL of 1M sodium hydroxide (52.8 mg, 1.32 mmol) was added to a (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)acetate (130 mg, 0.22 mmol) in ethanol (1 mL) and stirred for 24 h at 85° C. An additional 0.31 mL sodium hydroxide was added and the reaction was continued for 24 h. The reaction mixture was neutralized with 1N HCl solution, extracted with EtOAc, and the organic layer was washed with brine, and dried (MgSO4). The crude material was purified by prep HPLC to afford (S)-2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)acetic acid 58 mg (48%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.40-7.37 (m, 2H), 7.19 (d, J=9.2 Hz, 1H), 7.14 (t, J=8.8 Hz, 2H), 7.00-6.95 (m, 3H), 5.84 (s, 1H), 4.22 (t, J=6.6 Hz, 2H), 3.44-3.39 (m, 4H), 3.06 (t, J=6.6 Hz, 2H), 2.43 (s, 3H), 2.03 (s, 3H), 1.72-1.68 (m, 1H), 1.49 (d, J=12.1 Hz, 1H), 1.34 (d, J=7.0 Hz, 1H), 1.24-1.20 (m, 1H), 1.12 (s, 9H), 1.06-1.01 (m, 1H), 0.83 (d, J=3.7 Hz, 3H). UPLC (M+H)=549.6.

reactant | sodium hydroxide | 1.32 mmol, 1M, 1.32 mL, 52.8 mg | [OH-].[Na+]
reactant | (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)acetate | 0.22 mmol, 130 mg | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CCC(CC1)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C36H47FN2O4
reactant | sodium hydroxide | 0.31 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (S)-2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethyl-4-(4-methylpiperidin-1-yl)pyridin-3-yl)acetic acid | 58 mg, 48% | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C33H41FN2O4
